US07378525B2
(±)-(cis)-N-{4-[3-Ethyl-1-(2-ethylamino-acetyl)-piperidin-4-ylsulfamoyl]-naphthalen-1-yl}-2-methyl-benzamide (C-133)
To a 25 ° C. solution of (±)-(cis)-N-{4-[1-(2-amino-acetyl)-3-ethyl-piperidin-4-ylsulfamoyl]-naphthalen-1-yl}-2-methyl-benzamide (C-131) (65 mg, 0.128 mmol) in MeOH (4 mL) was added acetyl aldehyde (5.62 mg, 0.128 mmol) and sodium cyanoborohydride (40 mg, 0.64 mmol). After stirring for 2 h at 25° C., the solution was concentrated in vacuo to give a solid. The resultant solid was purified by reverse phase HPLC to provide the title compound. 1H NMR (300 MHz, MeOD) δ 8.85 (d, 1H), 8.33 (d, 1H), 8.25 (d, 1H), 7.94 (d, 1H), 7.71 (m, 3H), 7.43 (m, 1H), 7.35 (m, 2H), 3.55 (m, 5H), 3.20 (m, 2H), 2.85 (m, 2H), 2.56 (s, 3H), 1.25 (m, 7H), 0.50 (m, 3H); LC/MS m/z 537 (M+H)+

reactant | (±)-(cis)-N-{4-[1-(2-amino-acetyl)-3-ethyl-piperidin-4-ylsulfamoyl]-naphthalen-1-yl}-2-methyl-benzamide | 0.128 mmol, 65 mg | NCC(=O)N1C[C@H]([C@H](CC1)NS(=O)(=O)C1=CC=C(C2=CC=CC=C12)NC(C1=C(C=CC=C1)C)=O)CC | C27H32N4O4S
reactant | sodium cyanoborohydride | 0.64 mmol, 40 mg | C(#N)[BH3-].[Na+]
reactant | MeOH | 4 mL | CO | CH4O
product | (±)-(cis)-N-{4-[3-Ethyl-1-(2-ethylamino-acetyl)-piperidin-4-ylsulfamoyl]-naphthalen-1-yl}-2-methyl-benzamide | C(C)[C@@H]1CN(CC[C@@H]1NS(=O)(=O)C1=CC=C(C2=CC=CC=C12)NC(C1=C(C=CC=C1)C)=O)C(CNCC)=O | C29H36N4O4S
